US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-(trifluoromethyl)thiazole-5-carboxylic acid
Following the procedure as described in Example 25, making variations as required to replace ethyl 3-((3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoate with ethyl 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-(trifluoromethyl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in 69% yield: 1H NMR (300 MHz, DMSO-d6) δ 13.74 (br s, 1H), 7.36-7.30 (m, 2H), 7.19-7.13 (m, 2H), 4.41 (s, 2H), 4.02-3.97 (m, 2H), 3.47-3.41 (m, 2H); MS (ES+) m/z 390.1 (M+1).

reactant | ethyl 3-((3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoate | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC=1C=C(C(=O)OCC)C=CC1)=O)C | C25H26N4O4S
reactant | ethyl 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-(trifluoromethyl)thiazole-5-carboxylate | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C(F)(F)F)C(=O)OCC)=O)C=C1 | C17H15F4N3O3S
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-(trifluoromethyl)thiazole-5-carboxylic acid | 69% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C(F)(F)F)C(=O)O)=O)C=C1 | C15H11F4N3O3S
